US07713994B2
(4Z)-6-Bromo-4-{[(3-hydroxy-4-propoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione
According to the general procedure of example 129, an amount of 100 mg (0.55 mmol) of 5-(aminomethyl)-2-propoxyphenol is dissolved in N,N-dimethylformamide (5 mL). 228 μl (1.65 mmol) of triethylamine is added followed by 171 mg (0.607 mmol) of (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione. After the mixture is stirred at room temperature for 30 min, water (3 mL) is added and the reaction mixture is stirred for 3 hours. The precipitate is filtered and washed several times with anhydrous ether. The crude solid is then purified by high performance liquid chromatography to give 67 mg of a white solid. MS (ESI) m/z 430.8 (M+1).

reactant | 5-(aminomethyl)-2-propoxyphenol | 0.55 mmol, 100 mg | NCC=1C=CC(=C(C1)O)OCCC | C10H15NO2
reactant | triethylamine | 1.65 mmol, 228 μl | C(C)N(CC)CC | C6H15N
reactant | (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.607 mmol, 171 mg | BrC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8BrNO3
reactant | water | 3 mL | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (4Z)-6-Bromo-4-{[(3-hydroxy-4-propoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 67 mg | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(=C(C=C1)OCCC)O | C20H19BrN2O4
